US05684020
Step 1: Methyl 3-(thien-3-yl)-3-oxopropanoate
24 g (0.6 mmol) of sodium hydride (60%) are added in portions at 0° C., over a period of 10 minutes, to 25.2 g (0.2 mmol) of 3-acetylthiophene in 600 ml of dimethyl carbonate, and then the whole is heated at reflux for 30 minutes, allowed to cool and poured into 1 liter of a water/ice mixture containing 53 ml of acetic acid. Extraction is carried out 3 times with 250 ml of ether each time. The combined organic phases are dried over magnesium sulphate. After evaporation, the residue is chromatographed on silica (eluant:dichloromethane) to yield 17 g of the desired compound (yield: 46%).

reactant | sodium hydride | 0.6 mmol, 24 g | [H-].[Na+]
reactant | 3-acetylthiophene | 0.2 mmol, 25.2 g | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | acetic acid | 53 ml | C(C)(=O)O | C2H4O2
reactant | dimethyl carbonate | 600 ml | C(OC)(OC)=O | C3H6O3
product | Methyl 3-(thien-3-yl)-3-oxopropanoate | 17 g, yield: 46% | S1C=C(C=C1)C(CC(=O)OC)=O | C8H8O3S
